US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-(3,5-Dichlorophenylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 50 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 46 mg of potassium carbonate, and 33 mg of 3,5-dichlorothiophenol reacted to give 15 mg of the title compound as a foam.

reactant | 4-(3,5-Dichlorophenylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 50 mg | ClC=1C=C(C=C(C1)Cl)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C25H23Cl2NOS
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichlorothiophenol | 33 mg | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 15 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
